US04638070
To 0.13M of AlCl3, 0.12M of propionyl chloride in 150 ml of 1,2-dichloroethylene, 0.1M (16.4 gr.) de 3-methyl-thiochromane are dropwise added at a temperature of ±5° C. After agitating the mixture for 3 hours at room temperature, a mixture of ice and HCl is added and extraction is made with CHCl3. The organic phase is dried on MgSO4, filtered and evaporated. 17.3 gr. of 6-propionyl-3-methyl thiochromane are so obtained, the homogeneity of which is verified by TLC and the structure of which is verified by NMR spectrum.

reactant | AlCl3 | 0.13M | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | propionyl chloride | 0.12M | C(CC)(=O)Cl | C3H5ClO
reactant | 3-methyl-thiochromane | CC1CSC2=CC=CC=C2C1 | C10H12S
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethylene | 150 ml | ClC=CCl | C2H2Cl2
product | 6-propionyl-3-methyl thiochromane | C(CC)(=O)C=1C=C2CC(CSC2=CC1)C | C13H16OS
